US08440832B2
B) 3-Methyl-3-naphthalen-1-ylmethyl-2,3-dihydro-benzofuran-6-carboxylic acid
A mixture of 3-Methyl-3-naphthalen-1-ylmethyl-2,3-dihydro-benzofuran-6-carboxylic acid methyl ester (150 mg, 0.45 mmol), sodium hydroxide (150 mg, 3.75 mmol), ethanol (5 ml) and water (1 ml) in tetrahydrofuran (5 ml), was stirred for 12 h at room temperature. The reaction medium was acidified by adding a 1.2 M hydrochloric acid solution and extracted with ethyl acetate. The organic phase was washed with water, dried (Na2SO4), and concentrated in a rotary evaporator. The product was obtained as a brown oil (M: 128 mg, 89%).

reactant | 3-Methyl-3-naphthalen-1-ylmethyl-2,3-dihydro-benzofuran-6-carboxylic acid methyl ester | 0.45 mmol, 150 mg | COC(=O)C1=CC2=C(C(CO2)(CC2=CC=CC3=CC=CC=C23)C)C=C1 | C22H20O3
reactant | sodium hydroxide | 3.75 mmol, 150 mg | [OH-].[Na+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 1.2 M | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 3-Methyl-3-naphthalen-1-ylmethyl-2,3-dihydro-benzofuran-6-carboxylic acid | CC1(COC2=C1C=CC(=C2)C(=O)O)CC2=CC=CC1=CC=CC=C21 | C21H18O3
